US04757102
[N,N-Dibenzylaminoxymethyl]diphenylamine
The procedure of Example I s repeated using 21.33 g of dibenzylhydroxylamine, 9.46 g of aqueous formaldehyde (37%) solution and 16.92 g of diphenylamine, to afford the title compound as a colorless liquid with a mass spectrum, NMR and IR consistent with the desired structure.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | formaldehyde | 9.46 g | C=O | CH2O
reactant | diphenylamine | 16.92 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
product | [N,N-Dibenzylaminoxymethyl]diphenylamine | C(C1=CC=CC=C1)N(OCN(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C27H26N2O
